US04242519
Methyl α-methylthio-α-(m-phenoxyphenyl)isovalerate (702 mg) was dissolved in 5 ml of acetic acid, and 50 mg of anhydrous copper sulfate and 500 mg of zinc powder was added. The mixture was heated under reflux for 23 hours. Diethyl ether (80 ml) was added, and the insoluble matter was separated by filtration. The filtrate was washed twice with 25 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was chromatographed on a silica gel column using benzene as an eluent to afford 531 mg of methyl α-(m-phenoxyphenyl)isovalerate in a yield of 88%.

reactant | Methyl α-methylthio-α-(m-phenoxyphenyl)isovalerate | 702 mg | CSC(C(=O)OC)(C(C)C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C19H22O3S
reactant | Diethyl ether | 80 ml | C(C)OCC | C4H10O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
catalyst | copper sulfate | 50 mg | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | zinc | 500 mg | [Zn] | Zn
product | methyl α-(m-phenoxyphenyl)isovalerate | 531 mg, yield of 88% | O(C1=CC=CC=C1)C=1C=C(C=CC1)C(C(=O)OC)C(C)C | C18H20O3
